US07700655B2
(4) N-[3,5-Bis(trifluoromethyl)phenyl]-2-hydroxy-4-phenylbenzamide (Compound No. 545)
1M Boron tribromide-dichloromethane solution (0.71 mL, 0.71 mmol) was added to a solution of N-[3,5-bis(trifluoromethyl)phenyl]-2-methoxy-4-phenylbenzamide (100 mg, 0.24 mmol) in dichloromethane (5 mL), and the mixture was stirred at room temperature for 1 hour. The reaction mixture was diluted with ethyl acetate, washed with water and brine, and dried over anhydrous magnesium sulfate. The residue obtained by evaporation of the solvent under reduced pressure was purified by column chromatography on silica gel (n-hexane:ethyl acetate=5:1) to give the title compound (69.3 mg, 71.6%) as a white powder.

reactant | Boron tribromide dichloromethane | 0.71 mmol, 1M, 0.71 mL | B(Br)(Br)Br.ClCCl
reactant | N-[3,5-bis(trifluoromethyl)phenyl]-2-methoxy-4-phenylbenzamide | 0.24 mmol, 100 mg | FC(C=1C=C(C=C(C1)C(F)(F)F)NC(C1=C(C=C(C=C1)C1=CC=CC=C1)OC)=O)(F)F | C22H15F6NO2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-[3,5-Bis(trifluoromethyl)phenyl]-2-hydroxy-4-phenylbenzamide | 69.3 mg, 71.6% | FC(C=1C=C(C=C(C1)C(F)(F)F)NC(C1=C(C=C(C=C1)C1=CC=CC=C1)O)=O)(F)F | C21H13F6NO2
